US06376426B1
1A N-Amino-6-methoxyindole
A mixture of 0.735 g 6-methoxyindole and 5 ml tetrahydrofuran (THF) is added to a suspension of 0.44 g of 60% sodium hydride in 10 ml THF at 0° C. After 15 minutes a mixture 1.07 g O-mesitylsulfonyl-hydroxylamine and 15 ml THF is added. Stirring at 0° C. is continued for 1.5 hours. The mixture is poured into ice cold water, extracted with ethyl acetate, and purified by flash chromatography.

reactant | 6-methoxyindole | 0.735 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | O-mesitylsulfonyl-hydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-Amino-6-methoxyindole | NN1C=CC2=CC=C(C=C12)OC | C9H10N2O
